US07129232B2
Lithium aluminum hydride (455 mg) was added slowly to tetrahydrofuran (40 ml) at 0° C. and the mixture was stirred for 20 minutes. N-Methyl-N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]-2-(tritylamino)acetamide (2 g) was added to the mixture at 0° C., and the whole mixture was stirred for 2 hours with warming to room temperature and refluxed for 2 hours. Sodium fluoride (2.51 g) and water (862 mg) were added to the mixture, and the whole mixture was stirred at room temperature for 30 minutes. The precipitate was filtered off, and the filtrate was concentrated under reduced pressure to give crude residue, which was chromatographed (silica gel; ethyl acetate:dichloromethane=1:10) to give N4,1-dimethyl-N5-trityl-N4-[2-(tritylamino)ethyl]-1H-pyrazole-4,5-diamine (740 mg).

reactant | Lithium aluminum hydride | 455 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | N-Methyl-N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]-2-(tritylamino)acetamide | 2 g | CN(C(CNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C45H41N5O
reactant | Sodium fluoride | 2.51 g | [F-].[Na+]
solvent | water | 862 mg | O | H2O
product | N4,1-dimethyl-N5-trityl-N4-[2-(tritylamino)ethyl]-1H-pyrazole-4,5-diamine | 740 mg | CN(C=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)CCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H43N5
